US08604023B2
5-(5-Aminopyridin-3-yl)-7-chloro-3-(2-chlorobenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one
5-(5-Aminopyridin-3-yl)-7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (90 mg) was dissolved in anisole (5 mL) and aluminum chloride (90 mg, 4 eq) was then added. The suspension was heated to 85° C. under nitrogen gas for two hours, and then it was cooled to room temperature and poured onto ice water/EtOAc 1:1 (30 mL:30 g). The slurry was stirred vigorously for 1 hour, and the organic phase was then separated and washed with brine. The organic phase was dried over sodium sulfate, then concentrated, and purified by chromatography (gradient: DCM to 8:2 DCM:MeOH) delivering the title compound as a solid (23 mg, 34% yield). 1H-NMR (300 MHz, DMSO-d6) δ 10.80 (s, 1H), 7.98 (d, 1H), 7.65 (m, 2H), 7.47 (dd, 2H), 7.30-7.20 (m, 4H), 6.85 (s, 1H) 5.47 (bs, 2H), 3.77 (t, 1H), 3.45 (d, 2H). HRMS (ES+) m/z calcd for C21H16Cl2N4O [M+H]+, 411.0779. found, 411.0770.

reactant | 5-(5-Aminopyridin-3-yl)-7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 90 mg | NC=1C=C(C=NC1)C=1C2=C(N(C(C(N1)CC1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)OC)C=CC(=C2)Cl | C29H24Cl2N4O2
reactant | aluminum chloride | 90 mg, 4 eq | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 5 mL | C1(=CC=CC=C1)OC | C7H8O
product | 5-(5-Aminopyridin-3-yl)-7-chloro-3-(2-chlorobenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 23 mg, 34% yield | NC=1C=C(C=NC1)C=1C2=C(NC(C(N1)CC1=C(C=CC=C1)Cl)=O)C=CC(=C2)Cl | C21H16Cl2N4O
